US06018050
1. Synthesis of (SR,6S,9R)-6-isopropyl-1,9-dimethyl-1,4-diazaspiro[4.5]decan-2-one (type II)
156 ml of a commercially obtainable 8M ethanolic methylamine solution are added to 62.8 g glycine.imethyl ester hydrochloride (500 mmol) in 160 ml ethanols. at room temperature and the mixture is stirred overnight with exclusion of moisture. 40.5 g triethylamine (400 mmol) and 61.6 g (-)-menthone (400 mmol) are then added to the suspension and the mixture is boiled under reflux for 18 h under an inert gas (argon) using a Soxhlet attachment which is filled with 100 g molecular sieve 3A (capacity: 14%). Thereafter, the solvent is removed and the residue is taken up in a two-phase system of water/diethyl ether. After the organic phase has been separated off, extraction is carried out twice more with diethyl ether and the extract is dried over sodium sulphate. After the yellow solution has been evaporated, the residue can be recrystallized from cyclohexane/diethyl ether =8:2. During distillation of the mother liquor in vacuo, the content of the desired compound can be increased by cyclizing the chain tautomer. Unreacted menthone passes over as the first fraction (70° .C/1 mbar), followed by a mixture of the desired product and chain tautomer (140-150° C., 1 mbar). After cyclohexane has been added to the product fraction, further product can be obtained as a crystalline solid with a melting point of 125° C. The yield is 65%.

reactant | methylamine | 8M | CN | CH5N
reactant | glycine | 62.8 g | NCC(=O)O | C2H5NO2
reactant | triethylamine | 400 mmol, 40.5 g | C(C)N(CC)CC | C6H15N
reactant | (-)-menthone | 400 mmol, 61.6 g | C[C@@H]1CC[C@H](C(=O)C1)C(C)C | C10H18O
product | (SR,6S,9R)-6-isopropyl-1,9-dimethyl-1,4-diazaspiro[4.5]decan-2-one | yield is 65% | C(C)(C)[C@H]1C2(NCC(N2C)=O)C[C@@H](CC1)C | C13H24N2O
